US08492582B2
Piperidine (1.1 mL), cesium carbonate (4.9 g), tris(dibenzylideneacetone)dipalladium(0) (0.069 g), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.18 g), and palladium(II) acetate (0.034 g) were added to a toluene (30 mL) solution of benzyl 2-(benzyloxy)-5-bromobenzoate (3.0 g), followed by heating to reflux under a nitrogen atmosphere for 4 hours. The reaction mixture was cooled to room temperature, and then piperidine (0.37 mL), cesium carbonate (1.2 g), tris(dibenzylideneacetone)dipalladium(0) (0.069 g), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.18 g), and palladium(II) acetate (0.034 g) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 5 hours and 30 minutes. After cooling the reaction mixture to room temperature, water and ethyl acetate were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-80% hexane/ethyl acetate] to obtain 2.4 g of benzyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate as a light yellow solid.

reactant | Piperidine | 1.1 mL | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 4.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | benzyl 2-(benzyloxy)-5-bromobenzoate | 3.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)Br | C21H17BrO3
reactant | piperidine | 0.37 mL | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.069 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 0.034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.069 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 0.034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.18 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.18 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate | 2.4 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C26H27NO3
